US06969716B2
(3-Trifluoromethoxyphenyl)oxoacetaldehyde was reacted with 4-methoxybenzenecarboximidic hydrazide hydriodide salt (2.39 g, 8.16 mmol) using the method described in Example 1 to give 3-(4-methoxyphenyl)-5-(3-trifluoromethoxyphenyl)-[1,2,4]triazine as a yellow solid (1.10 g): δH (400 MHz, CDCl3) 3.92 (3H, s), 7.06-7.10 (2H, m), 7.45-7.49 (1H, m), 7.64 (1H, t, J 8.2 Hz), 8.14-8.18 (2H, m), 8.59-8.63 (2H, m), 9.53 (1H, s); m/z (ES+) 348.

reactant | (3-Trifluoromethoxyphenyl)oxoacetaldehyde | FC(OC=1C=C(C=CC1)C(C=O)=O)(F)F | C9H5F3O3
reactant | 4-methoxybenzenecarboximidic hydrazide hydriodide salt | 8.16 mmol, 2.39 g | I.COC1=CC=C(C=C1)C(=N)NN
product | 3-(4-methoxyphenyl)-5-(3-trifluoromethoxyphenyl)-[1,2,4]triazine | 1.10 g | COC1=CC=C(C=C1)C=1N=NC=C(N1)C1=CC(=CC=C1)OC(F)(F)F | C17H12F3N3O2
